US04978753
In the manner given in Example 1, 2-amino-9-acetylamino-5-(p-cyanophenyl)-3H-1,4-benzodiazepine, methyl propiolate and methanol were refluxed. The mixture was chromatographed to give 11-acetylamino-7-(p-cyanophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one.

reactant | 2-amino-9-acetylamino-5-(p-cyanophenyl)-3H-1,4-benzodiazepine | NC1=NC2=C(C(=NC1)C1=CC=C(C=C1)C#N)C=CC=C2NC(C)=O | C18H15N5O
reactant | methyl propiolate | C(C#C)(=O)OC | C4H4O2
solvent | methanol | CO | CH4O
product | 11-acetylamino-7-(p-cyanophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one | C(C)(=O)NC1=CC=CC=2C(=NCC=3N(C21)C=CC(N3)=O)C3=CC=C(C=C3)C#N | C21H15N5O2
